US08217032B2
6-(2,3-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride
Using the procedure demonstrated in Example 10, react 1-(2-{4-[2-(2,3-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine (622 mg, 1.27 mmol), 2M HCl in ether (1.3 mL, 2.6 mmol) and boron tribromide (0.60 mL, 6.4 mmol) to give 309 mg (48%) of the title compound: mass spectrum (ion spray) 476.4 (M−Cl).

reactant | 1-(2-{4-[2-(2,3-difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine | 1.27 mmol, 622 mg | FC1=C(C=CC=C1F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C30H29F2NO3
reactant | HCl | 2M | Cl | ClH
reactant | ether | 2.6 mmol, 1.3 mL | CCOCC | C4H10O
reactant | boron tribromide | 6.4 mmol, 0.60 mL | B(Br)(Br)Br | BBr3
product | 6-(2,3-Difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-ol hydrochloride | 309 mg, 48% | Cl.FC1=C(C=CC=C1F)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C29H27F2NO3.ClH/c30-27-6-4-5-25(28(27)31)26-13-7-20-19-21(33)8-14-24(20)29(26)35-23-11-9-22(10-12-23)34-18-17-32-15-2-1-3-16-32;/h4-14,19,33H,1-3,15-18H2;1H
